US07345180B2
1-Acetyl-1H-indole-3-carboxylic acid
1H-Indole-3-carboxylic acid (400 mg) and sodium acetate (0.96 g) were suspended in acetic anhydride (4.8 ml). The mixture was stirred at 110° C. for 16 hours and extracted with chloroform. The organic phase was washed with 2 N hydrochloric acid, dried over sodium sulfate anhydrous, and concentrated under reduced pressure. The residue was purified by column chromatography (eluting solvent; dichloromethane:methanol 50:1) to give the title compound (170 mg, Y.:34%).

reactant | 1H-Indole-3-carboxylic acid | 400 mg | N1C=C(C2=CC=CC=C12)C(=O)O | C9H7NO2
reactant | sodium acetate | 0.96 g | C(C)(=O)[O-].[Na+]
solvent | acetic anhydride | 4.8 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 1-Acetyl-1H-indole-3-carboxylic acid | 170 mg, 34% | C(C)(=O)N1C=C(C2=CC=CC=C12)C(=O)O | C11H9NO3
